US05929085
(c) 3-Ethyl-3,4-dihydroisoquinoline
To a stirred solution of 4-ethyl-5,9b-dihydro-4H-1-oxa-3a-aza-cyclopenta[a]naphthalene-2,3-dione (29.4 g, 0.12 mols) in methanol (1140 ml) was added concentrated sulfuric acid (60 ml) slowly. The reaction was then refluxed for 2 h. The solvent was evaporated and to the residue was added water (100 ml) and ethyl acetate (500 ml). The layers were then separated and the organic phase was then extracted with 2N HCl (2×200 ml). The aqueous layers were combined and made basic with concentrated ammonium hydroxide. The product was then extracted into dichloromethane and dried over magnesium sulfate. Evaporation of the solvent yielded 20.5 g.

reactant | 4-ethyl-5,9b-dihydro-4H-1-oxa-3a-aza-cyclopenta[a]naphthalene-2,3-dione | 0.12 mols, 29.4 g | C(C)C1N2C(C3=CC=CC=C3C1)OC(C2=O)=O | C13H13NO3
reactant | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 1140 ml | CO | CH4O
product | 3-Ethyl-3,4-dihydroisoquinoline | C(C)C1N=CC2=CC=CC=C2C1 | C11H13N
